US05468898
To a solution 0.2 g (0.42 mmoles) of N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-tetrazol-5-ylvinyl)indol-1-yl]acetamide in 30 ml of ethanol is added 0.08 g of 10% palladium on carbon and the mixture is shaken under 30 psi of hydrogen for 4 hours. The mixture is filtered and the filtrate concentrated in vacuo. The residue is crystallized from methylene chloride to give N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-tetrazol-5-yl)ethylindol-1-yl]acetamide.

reactant | N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-tetrazol-5-ylvinyl)indol-1-yl]acetamide | 0.42 mmoles, 0.2 g | CN(C(CN1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=CC1=NN=NN1)=O)CCC1=CC=CC=C1 | C29H28N6O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.08 g | [Pd] | Pd
product | N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-tetrazol-5-yl)ethylindol-1-yl]acetamide | CN(C(CN1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)CCC1=NN=NN1)=O)CCC1=CC=CC=C1 | C29H30N6O2
